US04130646
B. 2,3-Dihydro-5,6-dimethoxy-2-[[4-(2-methoxyphenyl)-1-piperazinyl]methyl]-1H-inden-1-ol
A suspension of 4.9 g of 2,3-dihydro-5,6-dimethoxy-2-[[4-(2-methoxyphenyl)-1-piperazinyl]methyl]-1H-inden-1-one, hydrochloride in 100 ml of methanol is cooled to 0° C. and treated with a solution of 1.52 g of sodium borohydride in 10 ml of water (the sodium borohydride is added dropwise). The mixture is stirred at room temperature overnight followed by the addition of an additional 1.52 g of sodium borohydride in 10 ml of water at 0° C. The mixture is stirred for an additional 2 hours at room temperature. The reaction mixture is chilled to 0° C. and treated with 30 ml of water. After 30 minutes at 0° C., the solvents are removed in vacuo, and the residue is distributed between dichloromethane and water. The organic layer is dried with sodium sulfate and evaporated in vacuo to a foamy residue (4.1 g). The residue is dissolved in a small amount of dichloromethane and chromatographed on a 150 g-Activity III neutral alumina column using ethyl acetate/hexane (3:1) in 50 ml fractions (a total of 500 ml). After evaporation of the combined fractions there is 2.7 g of residue. Trituration with pentane gives 2.28 g of an amorphous solid with indeterminant melting point. Crystallization from ethyl acetate/pentane yields 1.80 g of the title compound, melting point 109.5°-111.5° C.

reactant | 2,3-dihydro-5,6-dimethoxy-2-[[4-(2-methoxyphenyl)-1-piperazinyl]methyl]-1H-inden-1-one, hydrochloride | 4.9 g | Cl.COC=1C=C2CC(C(C2=CC1OC)=O)CN1CCN(CC1)C1=C(C=CC=C1)OC
reactant | sodium borohydride | 1.52 g | [BH4-].[Na+]
reactant | sodium borohydride | 1.52 g | [BH4-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
solvent | water | 10 ml | O | H2O
solvent | water | 30 ml | O | H2O
product | 2,3-Dihydro-5,6-dimethoxy-2-[[4-(2-methoxyphenyl)-1-piperazinyl]methyl]-1H-inden-1-ol | 2.28 g | COC=1C=C2CC(C(C2=CC1OC)O)CN1CCN(CC1)C1=C(C=CC=C1)OC | C23H30N2O4
